US05236952
A mixture of 1.95 g of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone, 1.06 g of 2-aminobenzothiazole and 50 ml of ethanol is heated to boiling under reflux for 17 hours. The reaction mixture is then cooled to room temperature, whereupon the crystals are removed by filtration under suction. There is obtained 5-(imidazo[2,1-b]benzothiazol-2-yl)-3-nitropyrocatechol of m.p. 303°-305° (from N,N-dimethylformamide/methanol).

reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 1.95 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
reactant | 2-aminobenzothiazole | 1.06 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(imidazo[2,1-b]benzothiazol-2-yl)-3-nitropyrocatechol | N=1C(=CN2C1SC1=C2C=CC=C1)C1=CC(=C(C(O)=C1)O)[N+](=O)[O-] | C15H9N3O4S
